US07115750B1
6-[4-[N-(4-Methoxybenzoyl)-N-methylamino]benzyloxy]-2-[(N,N-dimethylamino)methyl]tetralin
Diethyl azodicarboxylate (40% toluene solution, 960 mg) was added dropwise to THF solution (3 ml) of 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin (150 mg), N-[4-(hydroxymethylphenyl]-4-methoxy-N-methylbenzamide (600 mg) and triphenylphosphine (570 mg) at room temperature, which was stirred for 12 hours. After the reaction mixture was concentrated, the residue was purified using silca gel column chromatography (development solvent; hexane˜ethyl acetate˜ethyl acetate:methanol=1:2), and then purified using alumina column chromatography (development solvent; hexane˜hexane:ethyl acetate=2:1) to give the titled compound (185 mg).

reactant | Diethyl azodicarboxylate | 960 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin | 150 mg | CN(C)CC1CC2=CC=C(C=C2CC1)O | C13H19NO
reactant | 4-(hydroxymethylphenyl]-4-methoxy-N-methylbenzamide | 600 mg | OCC1=C(C=CC=C1)C1(CC=C(C(=O)NC)C=C1)OC | C16H19NO3
reactant | triphenylphosphine | 570 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-[4-[N-(4-Methoxybenzoyl)-N-methylamino]benzyloxy]-2-[(N,N-dimethylamino)methyl]tetralin | 185 mg | COC1=CC=C(C(=O)N(C)C2=CC=C(COC=3C=C4CCC(CC4=CC3)CN(C)C)C=C2)C=C1 | C29H34N2O3
